US05889012
5-Chloro-6-ethyl-4-(cis-4-hydroxymethylcyclohexylamino)pyrimidine
A solution of 12.47 g (0.040 mol) of ethyl cis-4-(5-chloro-6-ethylpyrimidin-4-ylamino)-cyclohexanecarboxylate (preparation: DE-A-44 17 163) in 25 ml of dry tetrahydrofuran was added dropwise at from 20° to 30° C. to a suspension of 1.52 g (0.04 mol) of lithium aluminum hydride in 150 ml of dry tetrahydrofuran. The mixture was subsequently stirred at 50° C. for 1 hour and cooled to room temperature, and 10 ml of water were carefully added dropwise. After removal of inorganic material by filtration with suction, the organic phase was dried and concentrated. For purification, the crude product was chromatographed on silica gel (using ethyl acetate as eluent). 5.2 g (48.2% of theory) were obtained of a yellow oil which solidified on standing. m.p.: 71° to 72° C.

reactant | ethyl cis-4-(5-chloro-6-ethylpyrimidin-4-ylamino)-cyclohexanecarboxylate | 0.040 mol, 12.47 g | ClC=1C(=NC=NC1CC)N[C@H]1CC[C@H](CC1)C(=O)OCC | C15H22ClN3O2
reactant | lithium aluminum hydride | 0.04 mol, 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-Chloro-6-ethyl-4-(cis-4-hydroxymethylcyclohexylamino)pyrimidine | ClC=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)CO | C13H20ClN3O
